US04186135
58 g of 1-allyl-2-aminomethyl-pyrrolidine and 360 ml of chloroform were introduced into a balloon flask provided with an agitator and a thermometer and then, with the temperature being maintained at 5°-10° C., 120 g of 7-ethylsulfonyl-1,4-benzodioxane-5-carbonyl chloride was added. After agitation of the mixture and the addition of a liter of water, the chloroform was distilled. The resulting solution was filtered on carbon black and then the base was precipitated by the addition of 40 ml of 30% soda lye. The resulting crystals were dried off, washed with water and then dried. 152 g of N-(1-allyl-2-pyrrolidylmethyl)-7-ethylsulfonyl-1,4-benzodioxane-5-carboxamide was produced (M.P.: 78°-80° C.; yield: 93.4%). 146 g of the resulting base was dissolved hot in 290 ml of absolute alcohol, and then the solution was filtered on carbon black and acidified by the addition of a solution of 13.5 g of hydrochloric acid in 100 ml of absolute alcohol. After cooling the crystals formed were dried off, washed with absolute alcohol and dried and then purified by recrystallization from absolute alcohol. 119.5 g of N-(1-allyl-2-pyrrolidylmethyl)-7-ethylsulfonyl-1,4-benzodioxane-5-carboxamide hydrochloride was produced (M.P.: 138°-140° C.; yield: 75%).

reactant | 1-allyl-2-aminomethyl-pyrrolidine | 58 g | C(C=C)N1C(CCC1)CN | C8H16N2
reactant | chloroform | 360 ml | C(Cl)(Cl)Cl | CHCl3
reactant | 7-ethylsulfonyl-1,4-benzodioxane-5-carbonyl chloride | 120 g | C(C)S(=O)(=O)C=1C=C(C2=C(OCCO2)C1)C(=O)Cl | C11H11ClO5S
solvent | water | a liter | O | H2O
product | N-(1-allyl-2-pyrrolidylmethyl)-7-ethylsulfonyl-1,4-benzodioxane-5-carboxamide | 152 g, yield: 93.4% | C(C=C)N1C(CCC1)CNC(=O)C1=CC(=CC=2OCCOC21)S(=O)(=O)CC | C19H26N2O5S
